US07705027B2
Potassium phosphate (0.1 g, 0.5 mmol) was added to a solution of 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole (0.14 g, 0.25 mmol) and phenyl boronic acid (0.095 g, 0.75 mmol) in 1,4 dioxan (4 ml) under a nitrogen atmosphere. Tetrakis(triphenylphosphine)palladium(0) (cat.) was added and the suspension heated, 80° C. for ˜18 hrs. The suspension was allowed to cool and ethyl acetate (25 ml) added. The mixture was washed with water (3×25 ml) and saturated aqueous sodium chloride solution (25 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to give a pale brown gum. Trituration with hexane gave 5-(4,6-bis-benzyloxy-biphenyl-3-yl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole as an off-white solid, dried in vacuo.

reactant | Potassium phosphate | 0.5 mmol, 0.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole | 0.25 mmol, 0.14 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC | C31H26BrNO4
reactant | phenyl boronic acid | 0.75 mmol, 0.095 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4 dioxan | 4 ml | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexane | CCCCCC | C6H14
product | 5-(4,6-bis-benzyloxy-biphenyl-3-yl)-4-(4-methoxy-phenyl)-3-methyl-isoxazole | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=CC=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC | C37H31NO4
